US08754229B2
To a solution of methyl 4-amino-6-(1-ethoxyvinyl)-3-methoxypicolinate (1.68 g, 6.66 mmol) in THF (44.4 ml) was added a 2 N solution of hydrochloric acid (6.66 ml, 13.32 mmol). The milky solution was stirred at room temperature overnight. The clear yellow reaction mixture was concentrated. The residue was poured into saturated NaHCO3 and extracted with EtOAc (3×). The combined organic layers were dried over MgSO4, filtered, concentrated and dried in vacuo to afford methyl 6-acetyl-4-amino-3-methoxypicolinate (1.55 g, 6.91 mmol, 104% yield) as an orange solid which was used without further purification in the next step. ESIMS m/z 223 ([M−H]−); 1H NMR (400 MHz, CDCl3) δ 7.47 (s, 1H), 4.59 (s, 2H), 4.01 (s, 3H), 3.90 (s, 3H), 2.67 (s, 3H).

reactant | methyl 4-amino-6-(1-ethoxyvinyl)-3-methoxypicolinate | 6.66 mmol, 1.68 g | NC1=C(C(=NC(=C1)C(=C)OCC)C(=O)OC)OC | C12H16N2O4
reactant | hydrochloric acid | 13.32 mmol, 6.66 ml | Cl | ClH
solvent | THF | 44.4 ml | C1CCOC1 | C4H8O
product | methyl 6-acetyl-4-amino-3-methoxypicolinate | 6.91 mmol, 1.55 g, 104% yield | C(C)(=O)C1=CC(=C(C(=N1)C(=O)OC)OC)N | C10H12N2O4
